US04279918
2-(4-chlorobenzyl)-1-isopropylpyrrolidine
Boil 40.6 g of 2-(α-ethoxycarbonyl-4-chlorobenzylidene)-1-isopropylpyrrolidine and 115 ml of conc. hydrochloric acid under reflux until evolution of carbon dioxide ceases. Alkalize the resulting reaction mixture with 250 ml of 6 N sodium hydroxide solution before extracting with 400 ml of diethyl ether, dry the ether phase over sodium sulfate and concentrate it. Dissolve thus-obtained residue in 250 ml of ethanol, and hydrogenate the resulting solution with platinum/hydrogen. Then filter off the catalyst and distil off the solvent before distilling the product under a high vacuum to obtain a yield [21.8 g (70% of theory)] of title compound and having a b.p. of 75° at 7·10-3 mm of Hg.

reactant | 2-(α-ethoxycarbonyl-4-chlorobenzylidene)-1-isopropylpyrrolidine | 40.6 g | C(C)OC(=O)C(C1=CC=C(C=C1)Cl)=C1N(CCC1)C(C)C | C17H22ClNO2
reactant | hydrochloric acid | 115 ml | Cl | ClH
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | platinum hydrogen | [Pt].[H][H]
solvent | sodium hydroxide | 6 N, 250 ml | [OH-].[Na+]
product | 2-(4-chlorobenzyl)-1-isopropylpyrrolidine | ClC1=CC=C(CC2N(CCC2)C(C)C)C=C1 | C14H20ClN
